US05786523
2-Hydroxy-3,6-di-hydroxycarbonylnaphthalene (11.8 g) was dissolved in chloroform (300 g) and dimethyl sulfoxide (100 g), followed by ice-cooling. Then, a solution of bromine (8.0 g) and chloroform (50 g) was added dropwise at not more than 5° C. over 2 hours. After continuously stirring for 1 hour, this solution was poured into water (1500 g) dropwise. The deposit was filtered and then washed with water and dispersed in a small amount of methanol. The dispersion was concentrated under reduced pressure at room temperature and then dried under vacuum to obtain 15.1 g of 1-bromo-2-hydroxy-3,6-di-hydroxycarbonylnaphthalene as a whitish brown crystal (DSC analysis value: 145.2° C.).

reactant | 2-Hydroxy-3,6-di-hydroxycarbonylnaphthalene | 11.8 g | OC1=CC2=CC=C(C=C2C=C1C(=O)O)C(=O)O | C12H8O5
reactant | bromine | 8.0 g | BrBr | Br2
reactant | water | 1500 g | O | H2O
solvent | chloroform | 300 g | C(Cl)(Cl)Cl | CHCl3
solvent | dimethyl sulfoxide | 100 g | CS(=O)C | C2H6OS
solvent | chloroform | 50 g | C(Cl)(Cl)Cl | CHCl3
product | 1-bromo-2-hydroxy-3,6-di-hydroxycarbonylnaphthalene | 15.1 g | BrC1=C(C(=CC2=CC(=CC=C12)C(=O)O)C(=O)O)O | C12H7BrO5
